US07329662B2
7-Difluoromethyl-3-(2-methyl-pyridin-4-yl)-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
Reaction of 4,4-difluoro-1-(4-trifluoromethyl-phenyl)-butane-1,3-dione (133 mg, 0.5 mmol), prepared from commercially available 4-trifluoromethyl-acetophenone according to general procedure A, and 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole [prepared from 4-cyanomethyl-2-methyl-pyridine, as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (87 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (159 mg, 79%). MS (ISP) 405.4 [(M+H)+]; mp 213° C.

reactant | 4,4-difluoro-1-(4-trifluoromethyl-phenyl)-butane-1,3-dione | 0.5 mmol, 133 mg | FC(C(CC(=O)C1=CC=C(C=C1)C(F)(F)F)=O)F | C11H7F5O2
reactant | 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole | 0.5 mmol, 87 mg | NC1=NNC=C1C1=CC(=NC=C1)C | C9H10N4
product | 7-Difluoromethyl-3-(2-methyl-pyridin-4-yl)-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 159 mg, 79% | FC(C1=CC(=NC=2N1N=CC2C2=CC(=NC=C2)C)C2=CC=C(C=C2)C(F)(F)F)F | C20H13F5N4
